US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(4-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXIX)
In a similar fashion compound to CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 4-Fluorobenzaldehyde (23.2 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to yield 20.09 mg (30%) of the title compound. (300 MHz, DMSO-d6) 13.31 (s, 1H), 8.18 (s, 2H), 7.96 (m, 1H), 7.77 (s, 1H), 7.41 (m, 2H), 7.23 (s, 2H), 6.40 (m, 2H), 5.18 (t, J=17 Hz, 8.5 Hz, 1H), 2.90 (s, 1H), 2.78 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=398 (M+H), HPLC: 2.54 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-Fluorobenzaldehyde | 0.187 mmol, 23.2 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-fluoro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 20.09 mg, 30% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)F)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H17ClFN5O
